US06518273B1
1-{3-[2-(4-Bromophenyl)-5-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine
4-Bromo-δ-oxobenzenepentanoic acid (J. Org. Chem. 1948, 13, 284; J. Org. Chem. 1984, 49, 3170; 6.2 g, 23 mmol) was added to a solution of 1,3-diisopropylcarbodiimide (1.8 mL, 11.5 mmol) in tetrahydrofuran-dichloromethane (1:1, 40 mL) and the mixture was allowed to stand at room temperature for 20 min. The mixture was added to 4-sulfamylbenzoyl AM resin (Novabiochem, product no. 01-64-0121, 1.15 mmol/g loading; 2 g) in a 70 mL solid phase extraction cartridge equipped with a frit and stopcock. 4-Dimethylaminopyridine (138 mg, 1.1 mmol) was added and the mixture was allowed to stand overnight at room temperature. The resin was washed with tetrahydrofuran-dichloromethane (1:1, 3×), dimethylformamide (3×), dichloromethane (3×) and acetic acid (3×). A solution of (4-methylphenyl)hydrazine hydrochloride (3.2 g, 20 mmol) and zinc chloride (2.7 g, 20 mmol) in glacial acetic acid (40 mL) was added and the mixture was heated to 70° C. for 1 h. The mixture was vented, mixed manually and heated overnight at 70° C. The mixture was cooled and the resin was washed with acetic acid (3×), tetrahydrofuran-dichloromethane (1:1, 3×), dimethylformamide (3×) and tetrahydrofuran-dichloromethane (1:1, 4×). A solution of pentafluorobenzyl alcohol (2.3 g, 11.5 mmol), triphenylphosphine (3 g, 11.5 mmol) and diisopropyl azodicarboxylate (2.3 mL, 11.5 mmol) in tetrahydrofuran-dichloromethane (1:1, 40 mL) was added and the mixture was stirred at room temperature for 3 h. The resin was washed with tetrahydrofuran-dichloromethane (1:1, 4×), dimethylformamide (4×), tetrahydrofuran-dichloromethane (1:1, 4×), dichloromethane (4×) and ether (2×), then dried under a stream of nitrogen and transferred from the cartridge to a round bottom flask. A solution of 1-(2-methoxyphenyl)piperazine (884 mg, 4.6 mmol) in tetrahydrofuran (40 mL) was added and the mixture was left to stand at room temperature for 24 h. Scavenger resin (description 1, 2.4 g) and sufficient tetrahydrofuran to cover the additional swollen resin were added and the mixture was left to stand at room temperature for 24 h. The mixture was filtered and the resin washed with tetrahydrofuran. The combined filtrates were evaporated under reduced pressure and the residue was purified by medium pressure liquid chromatography on silica gel, eluting with hexane-ethyl acetate (1:1) to give the title compound (494 mg, 40%). 1H NMR (360 MHz, CDCl3) δ8.00 (1H, br s), 7.59-7.57 (2H, m), 7.45-7.32 (3H, m), 7.27-7.25 (1H, m), 7.06-7.00 (2H, m), 6.93-6.80 (3H, m), 3.85 (3H, s), 3.77 (2H, t, J 5.0 Hz), 3.43 (2H, t, J 5.0 Hz), 3.26 (2H, m), 2.93 (2H, t, J 5.0 Hz), 2.76 (2H, t, J 5.0 Hz), and 2.69 (2H, m). m/z (ES+) 532, 534 (M+1).

reactant | 4-Bromo-δ-oxobenzenepentanoic acid | 23 mmol, 6.2 g | BrC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11BrO3
reactant | 1,3-diisopropylcarbodiimide | 11.5 mmol, 1.8 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | (4-methylphenyl)hydrazine hydrochloride | 20 mmol, 3.2 g | Cl.CC1=CC=C(C=C1)NN
reactant | pentafluorobenzyl alcohol | 11.5 mmol, 2.3 g | FC1=C(C(=C(C(=C1CO)F)F)F)F | C7H3F5O
reactant | triphenylphosphine | 11.5 mmol, 3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 11.5 mmol, 2.3 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-(2-methoxyphenyl)piperazine | 4.6 mmol, 884 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | tetrahydrofuran dichloromethane | 40 mL | O1CCCC1.ClCCl
catalyst | 4-Dimethylaminopyridine | 1.1 mmol, 138 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran dichloromethane | 40 mL | O1CCCC1.ClCCl
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 20 mmol, 2.7 g | [Cl-].[Zn+2].[Cl-]
product | 1-{3-[2-(4-Bromophenyl)-5-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine | 494 mg, 40% | BrC1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C | C29H30BrN3O2
